US07807690B2
5-[(1-Imino-2,3-dihydro-1H-isoindol-5-ylamino)-(8-methoxy-4H-benzo[1,3]-dioxin-6-yl)methyl]-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one
To a mixture of (2-cyano-5-{[(8-methoxy-4H-benzo[1,3]-dioxin-6-yl)-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl]amino}benzyl)carbamic acid t-butyl ester (83 mg) and dichloromethane (3.0 mL) there was added TFA (0.3 mL), and the mixture was stirred at room temperature for 2 hours. Toluene (10 mL) was added to the mixture, and the solvent in the mixture was distilled off. The residue was purified by reverse-phase high performance liquid chromatography (acetonitrile/water mixed solvent, 0.1% acetic acid) to obtain the target compound (33.8 mg).

reactant | (2-cyano-5-{[(8-methoxy-4H-benzo[1,3]-dioxin-6-yl)-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl]amino}benzyl)carbamic acid t-butyl ester | 83 mg | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)NC(C1=NN(C(N1)=O)C1=NC=CC=N1)C=1C=C(C2=C(COCO2)C1)OC)C#N)=O | C29H30N8O6
reactant | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[(1-Imino-2,3-dihydro-1H-isoindol-5-ylamino)-(8-methoxy-4H-benzo[1,3]-dioxin-6-yl)methyl]-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | 33.8 mg | N=C1NCC2=CC(=CC=C12)NC(C=1NC(N(N1)C1=NC=CC=N1)=O)C=1C=C(C2=C(COCO2)C1)OC | C24H22N8O4
